US05286728
2.77 g of 1-[3-(2-isopropyloxyethylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine are dissolved in 50 ml of absolute tetrahydrofuran and stirred at RT with 1.07 g of Hunig base and 0.794 g of chloroacetyl chloride in 5 ml of absolute tetrahydrofuran. After approximately 15 minutes, the thin suspension is concentrated by evaporation, dissolved in ethyl acetate and washed with water until neutral. Concentration by evaporation, chromatography of the residue over silica gel (eluant: ethyl acetate) and treatment with ethereal hydrochloric acid yield 1-{3-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 115°-117°.

reactant | 1-[3-(2-isopropyloxyethylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine | 2.77 g | C(C)(C)OCCNC=1C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC1 | C24H32ClN3O2
reactant | Hunig base | 1.07 g | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 0.794 g | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-{3-[N-(2-isopropyloxyethyl)-N-chloroacetylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)(C)OCCN(C(CCl)=O)C=1C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC1 | InChI=1S/C26H33Cl2N3O3.ClH/c1-20(2)34-17-16-31(25(32)19-27)24-5-3-4-22(18-24)26(33)30-14-12-29(13-15-30)11-10-21-6-8-23(28)9-7-21;/h3-9,18,20H,10-17,19H2,1-2H3;1H
